US06291704B1
Preparation of 2-Chloro-1,1,2-trifluoro-1-{[4-(vinyloxymethyl)cyclohexyl]methoxy}propane
Into a 450 mL capacity PARR® reactor, 1,4-cyclohexanedimethanol vinyl ether (50 g, 294 mmol), acetonitrile (100 mL), and Cs2CO3 (2 g, 6 mmol) were added. The PARR® reactor was cooled to ˜30° C., partially evacuated and chlorotrifluoroethylene (34 g, 294 mmol) was condensed and the resultant mixture was heated at ˜50-60° C. with stirring for 3 hours. After this, the PARR® reactor was cooled to room temperature, vented in the fume hood and the reaction mixture was poured into ˜150 mL water and the lower layer containing the crude product separated, and was concentrated under reduced pressure 0.05 mmHg) at 25-30° C. to afford the desired product as a colorless viscous liquid (49 g, 58% yield) which is a mixture of cis/trans isomers in the ratio 73:18; refractive index of 1.415 at 23.7° C,; GC/MS (EI mode): m/z at 286 for M+; 19F and 1H NMR spectral data are consistent with the structure.

reactant | 1,4-cyclohexanedimethanol vinyl ether | 294 mmol, 50 g | C(=C)OCC1CCC(CC1)CO | C10H18O2
reactant | acetonitrile | 100 mL | C(C)#N | C2H3N
reactant | chlorotrifluoroethylene | 294 mmol, 34 g | ClC(=C(F)F)F | C2ClF3
catalyst | Cs2CO3 | 6 mmol, 2 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | water | ˜150 mL | O | H2O
product | 2-Chloro-1,1,2-trifluoro-1-{[4-(vinyloxymethyl)cyclohexyl]methoxy}propane | 49 g, 58% yield | ClC(C(OCC1CCC(CC1)COC=C)(F)F)(C)F | C13H20ClF3O2
